US05864039
N-(4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butyl)-6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide (0.7 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-methoxybenzoic acid (0.37 g) to give N-(4-(3-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)-pyrrolidin-1-yl)butyl)-6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide.

reactant | N-(4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butyl)-6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide | 0.7 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCNC(=O)C1=CC(=CC=2N(CCOC21)C)Cl | C24H37ClN4O4
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.37 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | N-(4-(3-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)-pyrrolidin-1-yl)butyl)-6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCCNC(=O)C2=CC(=CC=3N(CCOC32)C)Cl)C=C1Cl)OC | C27H35Cl2N5O4
